ngspice transformers
* single primary, single secondary, no core saturation

* sources
V1 1 0 dc 0 ac 1 sin (0 1 1k)

Xtr1 1 0 2 0 tr1

Xtr1a 1 0 32 0 tr1a  psr=1m ssr=1m lp=1m ls=4m kt=0.98

Xtr2 1 0 12 0 tr2

Xtr3 1 0 22 0 tr3

.tran 1u 10m

* transformer 1
* ngspice manual 3.3.10
.subckt tr1 p1 p2 s1 s2
  Rp1 p1 pint1 1m ; primary series resistance
  Rs1 s1 sint1 1m ; secondary series resistance
  L1 pint1 p2 1m ; primary inductance
  L2 sint1 s2 4m ; secondary inductance
  K1 L1 L2 0.98 ; coupling constant
.ends

* transformer 1a
* ngspice manual 3.3.10, with parameters replacing fixed values
.subckt tr1a p1 p2 s1 s2 psr=1m ssr=1m lp=100u ls=100u kt=1
  Rp1 p1 pint1 {psr} ; primary series resistance
  Rs1 s1 sint1 {ssr} ; secondary series resistance
  L1 pint1 p2 {lp} ; primary inductance
  L2 sint1 s2 {ls} ; secondary inductance
  K1 L1 L2 {kt} ; coupling constant
.ends

* transformer 2
* ngspice manual 8.2.21 and 8.2.22
* px primary nodes, sx secondary nodes of electric circuit
* mcx nodes of magnetic circuit 
.subckt tr2 p1 p2 s1 s2
  Rp1 p1 pint1 1m ; primary series resistance
  Rs1 s1 sint1 1m ; secondary series resistance
  a1 (pint1 pint2) (mc1 0) primary1
  .model primary1 lcouple(num_turns=120)
  a2 (sint1 s2) (0 mc2) secondary1
  .model secondary1 lcouple(num_turns=240)
  Rreluctance mc1 mc2 1000
  Lleak pint2 p2 1u ; (primary) leakage inductance
.ends

* transformer 3
* C.P. Basso, Switched Mode Power Supplies, 2nd Ed., p. 406
.subckt tr3 p1 p2 s1 s2 params: RATIO=2
  Rp1 p1 pint1 1m ; primary series resistance
  Rs1 sint1 s1 1m ; secondary series resistance
  Lp pint1 pint2 1m ; primary inductance
  Rp pint1 pint2 1Meg ; primary parallel resistance
  E 5 s2 pint1 pint2 {RATIO}
  F pint1 pint2 VM {RATIO}
  VM 5 sint1 0
  Lleak pint2 p2 1u ; (primary) leakage inductance
.ends

.control
run
set xbrushwidth=2
plot V(1) v(2) V(1)+5 V(12)+5 V(1)+10 V(22)+10 V(1)+15 V(32)+15
.endc

.end

